US08048911B2
N-(6,8-dimercaptooctanoyl)isopropylamine zinc chelate compound
4.2 g of DL-α-lipoic acid and 2.4 g of triethylamine were dissolved in 50 ml of acetonitrile and cooled down to −65° C. with stirring. To this was gradually added 2.4 g of ethyl chloroformate dropwise. Twenty minutes after the completion of the dropwise addition, 1.5 g of isopropylamine dissolved in 30 ml of acetonitrile was quickly added, and stirring was continued for 30 minutes and, further one hour at room temperature. The solvent was evaporated under reduced pressure, and water was added to the residue and the mixture then was cooled down. Precipitated pale yellow crystals were collected by filtration, dissolved in 60 ml of tetrahydrofuran (THF). To this were added 20 ml of 50% acetic acid aqueous solution and 2.0 g of zinc powder and reaction was allowed for two hours at 50° C. with stirring. Unreacted zinc was separated out by filtration, and the filtrate was concentrated. After addition of water to the residue, precipitated white crystals were collected by filtration. Recrystallized from THF/acetic acid/water gave 5.0 g of the aimed compound. mp. 271-273° C. TLC, Rf=0.89 (n-butanol/acetic acid/water=4/1/2).

reactant | DL-α-lipoic acid | 4.2 g | C1CSSC1CCCCC(=O)O | C8H14O2S2
reactant | ethyl chloroformate | 2.4 g | ClC(=O)OCC | C3H5ClO2
reactant | isopropylamine | 1.5 g | C(C)(C)N | C3H9N
reactant | zinc | [Zn] | Zn
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | N-(6,8-dimercaptooctanoyl)isopropylamine zinc | 5.0 g | [Zn].SC(CCCCC(=O)NC(C)C)CCS | InChI=1S/C11H23NOS2.Zn/c1-9(2)12-11(13)6-4-3-5-10(15)7-8-14;/h9-10,14-15H,3-8H2,1-2H3,(H,12,13);
